US05166181
8.5 of 5-bromotetralone are dissolved in 100 ml of ethanol, and 25 ml of a 33% solution of methylamine in ethanol are added. The mixture is cooled to 5° and the pH is adjusted to 6-7 with acetic acid. Then 2.5 g of sodium cyanoborohydride are added in portions. The reaction mixture is then stirred at room temperature during 36 hours. The solvent is evaporated and the residue is added to 1N NaOH. The aqueous phase is extracted 3× with ether and the combined organic extracts are dried on Na2SO4 and evaporated. The remaining oil (8.7 g) is dissolved in 100 ml of methanol and 6 ml of a 33% aqueous solution of formaldehyde are added. The mixture is cooled to 5° and 2.8 g of sodium borohydride are added. After stirring at room temperature for 24 hours, the reaction mixture is concentrated and the residue is added to 1N HCl. The aqueous phase is washed 2× with ether. The pH is then adjusted to 10 with 30% NaOH and extraction follows 3× with ether. The organic extracts are dried on Na2SO4 and concentrated. The 5-bromo-N,N-dimethyl-1,2,3,4-tetrahydro-1-naphthalenylamine is obtained.

reactant | 5-bromotetralone | BrC1=C2CCCC(C2=CC=C1)=O | C10H9BrO
reactant | methylamine | CN | CH5N
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 2.5 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-bromo-N,N-dimethyl-1,2,3,4-tetrahydro-1-naphthalenylamine | BrC1=C2CCCC(C2=CC=C1)N(C)C | C12H16BrN
